US08378118B2
Step-II: Preparation of 8-Methyl dihydrocoumarin
To a solution of 8-Methyl coumarin (16.2 gm) in Ethyl acetate (160 ml), 10% w/w Palladium-charcoal (1.62 gm) was added. Hydrogenation was carried out for 5 hours at 55-60° C. in an autoclave at 240-250 psi. using Hydrogen gas. The reaction mixture was filtered through hyflow bed and distilled under vacuum to give a 14.5 gm of title compound as a white solid.

reactant | 8-Methyl coumarin | 16.2 gm | CC=1C=CC=C2C=CC(OC12)=O | C10H8O2
reactant | Hydrogen | [H][H] | H2
solvent | Ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium-charcoal | 1.62 gm | [Pd] | Pd
product | 8-Methyl dihydrocoumarin | 14.5 gm, Yield: 90% | CC=1C=CC=C2CCC(OC12)=O | C10H10O2
